US09403847B2
Step E: 3-(3,5-Difluorophenyl)-2-ethylpyrazolo[1,5-a]pyridine
2-Ethyl-3-iodopyrazolo[1,5-a]pyridine (0.5 g, 2.0 mmol) and (3,5-difluorophenyl)boronic acid (0.35 g, 2.2 mmol) [Aldrich 471925] were stirred in dioxane (12 mL). A solution of potassium carbonate (0.29 g, 2.1 mmol) in water (2.8 mL) was added. Tetrakis-(triphenylphosphine)palladium(0) (0.13 g, 0.1 mmol) was added and the mixture was heated at 100° C. for 16 h. After cooling, the mixture was diluted with ethyl acetate and washed with water and brine. The extracts were dried over magnesium sulfate, filtered, concentrated and purified on silica gel with ethyl acetate in hexanes (0-10%) to give the desired compound (0.41 g, 80%). LCMS for C15H13F2N2 (M+H)+: m/z=259.2. 1H NMR (300 MHz, DMSO-d6): δ 8.67 (m, 1 H), 7.64 (m, 1 H), 7.25 (m, 1 H), 7.18 (m, 3 H), 6.90 (m, 1 H), 2.89 (m, 2 H), 1.22 (m, 3 H).

reactant | 2-Ethyl-3-iodopyrazolo[1,5-a]pyridine | 2.0 mmol, 0.5 g | C(C)C1=NN2C(C=CC=C2)=C1I | C9H9IN2
reactant | (3,5-difluorophenyl)boronic acid | 2.2 mmol, 0.35 g | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | potassium carbonate | 2.1 mmol, 0.29 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | water | 2.8 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3,5-Difluorophenyl)-2-ethylpyrazolo[1,5-a]pyridine | 0.41 g, 80% | FC=1C=C(C=C(C1)F)C=1C(=NN2C1C=CC=C2)CC | C15H12F2N2
